US07618990B2
4-[2-(4,4-Dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]-N′-hydroxybenzene carboximidamide
4-[2-(4,4-Dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzonitrile (0.10 mg, 0.33 mmol), prepared in Example 6, was dissolved in tetrahydrofuran (2 mL). A 1M solution of hydroxylamine in dimethyl sulfoxide (1.5 mL, 1.5 mmol) was added and the mixture was stirred for 16 h. The mixture was diluted with ethyl acetate and washed with H2O, brine, dried over anhydrous MgSO4, filtered and concentrated. Flash chromatography (1% methanol/methylene chloride) afforded the title compound (70 mg, 64%) as a white solid. HRMS: calcd for C15H16N4O3S+H+, 333.10159; found (ESI-FT/MS, [M+H]1+), 333.102; Analytical HPLC: purity 100% at 210-370 nm, 6.9 min; 100% at 292 nm, 6.9 min; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 mm.

reactant | 4-[2-(4,4-Dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzonitrile | 0.33 mmol, 0.10 mg | CC1(N(C(OC1)=O)C=1SC=C(N1)C1=CC=C(C#N)C=C1)C | C15H13N3O2S
reactant | hydroxylamine | NO | H3NO
reactant | dimethyl sulfoxide | 1.5 mmol, 1.5 mL | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[2-(4,4-Dimethyl-2-oxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]-N′-hydroxybenzene carboximidamide | 70 mg, 64% | CC1(N(C(OC1)=O)C=1SC=C(N1)C1=CC=C(C=C1)C(N)=NO)C | C15H16N4O3S
